US05411869
3-(cis-1,2,3,6-tetrahydrophthalimido)-1-propanol (1b)
15.1 g. of cis-1,2,3,6-tetrahydrophthalimide are dissolved in 15 ml of methanol in which has previously been dissolved, 2.3 g of sodium metal. The mixture is evaporated to dryness under reduced pressure. 14 g. of 3-bromo-1-propanol are added to the solid, warming occurs. When the heating subsides, 40 ml of dimethylformamide are added with heating under reflux for 6 hours. After cooling, 200 ml of water and 100 ml of methylene chloride are added. The mixture is shaken and the aqueous phase discarded. The organic extract is washed with water (2×50 ml) and the methylene chloride solution is dried over anhydrous sodium sulfate. The solution is concentrated to about 50 ml and hexane added near the cloud point. Cooling to 0° C. precipitates 3-(cis-1,2,3,6-tetrahydrophthalimido)-1-propanol (1b).

reactant | cis-1,2,3,6-tetrahydrophthalimide | C1([C@H]2[C@@H](C(N1)=O)CC=CC2)=O | C8H9NO2
reactant | sodium | 2.3 g | [Na] | Na
solvent | methanol | 15 ml | CO | CH4O
product | 3-(cis-1,2,3,6-tetrahydrophthalimido)-1-propanol | C1([C@H]2[C@@H](C(N1CCCO)=O)CC=CC2)=O | C11H15NO3
